US04002620
6-Chloro-4H-3,1-benzothiazine-2(1H)thione
Carbon disulfide (180 ml, 3.0 moles) was added dropwise to a stirred solution of 84 g (1.5 moles) of potassium hydroxide in 400 ml of absolute ethanol with external cooling. To this mixture was added 157 g (1.0 mole) of 2-amino-5-chlorobenzyl alcohol. The reaction mixture was heated under reflux for 20 hours and the solvent was removed by distillation. The solid residue was stirred with 2000 ml of 10% aqueous potassium hydroxide, and the mixture was filtered to remove neutral impurities. The clear filtrate was made acidic with dil. hydrochloric acid, and the solid which was deposited was collected by filtration to give 221 g (100%) of product. Recrystallization from methanol gave an analytical sample, m.p. 217°-222°.

reactant | Carbon disulfide | 3.0 moles, 180 ml | C(=S)=S | CS2
reactant | potassium hydroxide | 1.5 moles, 84 g | [OH-].[K+]
reactant | 2-amino-5-chlorobenzyl alcohol | 1.0 mole, 157 g | NC1=C(CO)C=C(C=C1)Cl | C7H8ClNO
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 6-Chloro-4H-3,1-benzothiazine-2(1H)thione | 221 g, 100% | ClC=1C=CC2=C(CSC(N2)=S)C1 | C8H6ClNS2
